US09034880B2
Methyl 4-hydrazinylbenzoate (1 g, 0.005 moles) and 5-(2-bromoethyl)-2-methylpyridine (1 g, 0.005 moles) was taken up in triethylamine (2.1 mL) and stirred at RT for 1 hr. The reaction was heated at 100° C., overnight. LCMS analysis of the reaction mixtures shows the formation of product. The reaction mixture was concentrated, water (20 mL) was added to the reaction mixture and the mixture extracted with ethyl acetate. The crude product was dissolved in ethyl acetate and purified by column chromatography using neutral alumina, using 100% ethyl acetate as the eluent. After chromatography 400 mg of Methyl 4-(1-(2-(6-methylpyridin-3-yl)ethyl)hydrazinyl)benzoate was obtained, 28.5% yield.

reactant | Methyl 4-hydrazinylbenzoate | 0.005 moles, 1 g | N(N)C1=CC=C(C(=O)OC)C=C1 | C8H10N2O2
reactant | 5-(2-bromoethyl)-2-methylpyridine | 0.005 moles, 1 g | BrCCC=1C=CC(=NC1)C | C8H10BrN
solvent | triethylamine | 2.1 mL | C(C)N(CC)CC | C6H15N
product | Methyl 4-(1-(2-(6-methylpyridin-3-yl)ethyl)hydrazinyl)benzoate | 400 mg, 28.5% yield | CC1=CC=C(C=N1)CCN(N)C1=CC=C(C(=O)OC)C=C1 | C16H19N3O2
